US05859153
Example 3. Preparation of catechol-(p-ethylphenol) novolak
To a 1 liter, 3 necked round bottomed flask equipped with a paddle stirrer, condenser, thermometer and heating source, were added 150 g (0.81 mole) of the 2,6-dimethylol-4-ethylphenol, followed by 9 g (0.1 moles) of oxalic acid and 181 g (1.64 moles) of catechol. To this was added 400 g of water. The reaction mixture was stirred and heated to 70° C. Solution occurred when the temperature reached approximately 60° C. Then, the reaction mixture was heated to reflux and held for 4 hours. After 1 hour at reflux, the product began to separate.

reactant | 2,6-dimethylol-4-ethylphenol | 0.81 mole, 150 g | C(O)C1=C(C(=CC(=C1)CC)CO)O | C10H14O3
reactant | oxalic acid | 0.1 moles, 9 g | C(C(=O)O)(=O)O | C2H2O4
reactant | catechol | 1.64 moles, 181 g | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | water | 400 g | O | H2O
product | catechol-(p-ethylphenol) | C(C)C1=CC=C(C=C1)O.C=1(O)C(O)=CC=CC1 | InChI=1S/C8H10O.C6H6O2/c1-2-7-3-5-8(9)6-4-7;7-5-3-1-2-4-6(5)8/h3-6,9H,2H2,1H3;1-4,7-8H
